US04840898
EXAMPLE 4 Accumulation of Ribavirin to a High Concentration Using a Fedbatch Bioconversion
Bioconversion media were prepared as in Example 1, except the initial amounts of guanosine and 1,2,4-triazole-3-carboxamide were 40 millimoles. The initial pH of each flask was adjusted to pH 7.2 with potassium hydroxide. The bioconversions were initiated as in Example 1, except that the temperature was 70° C. The cells were added promptly as the temperature reached 70° C. to avoid gelling of the bioconversion mixture. Forty millimole additions of both guanosine and 1,2,4-triazole-3-carboxamide were made at 6 and 12 hours into the bioconversion. Thus after the second addition, a total of 120 millimoles of the two reactants had been added. Potassium hydroxide was added at 6 hours to adjust the pH from 6.7 to 7.2.

reactant | guanosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C10H13N5O5
reactant | 1,2,4-triazole-3-carboxamide | N1N=C(N=C1)C(=O)N | C3H4N4O
reactant | potassium hydroxide | [OH-].[K+]
product | Ribavirin | C1=NC(=NN1[C@H]2[C@@H]([C@@H]([C@H](O2)CO)O)O)C(=O)N | C8H12N4O5
